US04680297
4-Hydroxy-3-(2-hydroxyhexyl)-1-phenyl-1,8-naphthyridin-2(1H)-one
A mixture of methyl 2-phenylaminonicotinate (5 g.), gamma-octanoic lactone (10 g.) and potassium t-butoxide (7.5 g.) was stirred in a nitrogen atmosphere and heated to 95° C. where it was held for 6 hrs. After cooling, the mixture was poured into 5% NaOH (200 ml.) and stirred overnight. Acidification to pH 4.6 yielded an oil, which was extracted with ether, washed with water, dried (Na2SO4), filtered, and evaporated to a small volume. Hexane was added until turbidity was noticed, and the mixture was allowed to stand for about 5 hrs. The solid was filtered off and recrystallized from CH2Cl2 /isopropanol/isopropyl ether to produce the desired product, m.p. 184°-186° C.

reactant | methyl 2-phenylaminonicotinate | 5 g | C1(=CC=CC=C1)NC1=C(C(=O)OC)C=CC=N1 | C13H12N2O2
reactant | gamma-octanoic lactone | 10 g | CCCCC1CCC(=O)O1 | C8H14O2
reactant | potassium t-butoxide | 7.5 g | CC(C)([O-])C.[K+]
solvent | NaOH | 200 ml | [OH-].[Na+]
product | 4-Hydroxy-3-(2-hydroxyhexyl)-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC(CCCC)O | C20H22N2O3
